US06211234B1
A solution of triphenylphosphine (20 g) in tetrahydrofuran (300 mL) cooled at 0° C. is treated dropwise during 5 minutes with diisopropyl azodicarboxylate (15 mL) and stirred for 15 minutes at 0° C. It is then treated, dropwise, with a solution of 2-fluoro-4-hydroxybenzonitrile (7 g) and 3-pyridylmethanol (7 g) in tetrahydrofuran (200 mL) during 2 hours, and stirring is continued at ambient temperature for 18 hours. The mixture is concentrated in vacuo and the residue is dissolved in ethyl acetate (500 mL) and the solution is washed with hydrochloric acid (3×100 mL; 1 N) and the remaining organic layer is discarded. The combined acid washings are basified to pH 10 by treatment with solid sodium hydroxide and extracted with ethyl acetate (3×100 mL). This organic extract is dried over magnesium sulphate and concentrated in vacuo, and the residue is recrystallized from isopropyl ether, to give 2-fluoro-4-(3-pyridylmethoxy)benzonitrile (10 g), in the form of a white solid, m.p. 105-110° C.

reactant | triphenylphosphine | 20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 15 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2-fluoro-4-hydroxybenzonitrile | 7 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 3-pyridylmethanol | 7 g | N1=CC(=CC=C1)CO | C6H7NO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-fluoro-4-(3-pyridylmethoxy)benzonitrile | 10 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NC=CC1 | C13H9FN2O
